US09399623B2
Step 2. 6-Chloro-2-(1-isopropyl-piperidin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide
The title compound was synthesized according to the procedure described in example 126 using 6-chloro-2-(1-isopropyl-1,2,3,6-tetrahydro-pyridin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, palladium on carbon and triethylsilane. 1H NMR (400 MHz, DMSO-d6) δ ppm: 8.79 (t, J=5.92 Hz, 1H), 8.01 (d, J=8.71 Hz, 1H), 7.97 (dd, J=0.5, 9.02 Hz, 1H), 7.76 (d, J=9.02 Hz, 1H), 7.60 (d, J=8.81 Hz, 1H), 3.27 (t, J=6.23 Hz, 2H), 2.91 (d, J=7.61 Hz, 3H), 2.82 (s, 1H), 2.25 (s, 2H), 2.03 (d, J=9.4 Hz, 2H), 1.86-1.74 (m, 9H), 1.30-1.24 (m, 2H), 1.00 (d, J=5.8 Hz, 6H). m/z: 464.20 [M+H]+

reactant | 6-chloro-2-(1-isopropyl-1,2,3,6-tetrahydro-pyridin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C=1CCN(CC1)C(C)C)F | C25H30ClF2N3O
reactant | triethylsilane | C(C)[SiH](CC)CC | C6H16Si
catalyst | palladium on carbon | [Pd] | Pd
product | 6-Chloro-2-(1-isopropyl-piperidin-4-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexyl methyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1CCN(CC1)C(C)C)F | C25H32ClF2N3O
